US08106190B2
HATU was added to a dichloroethane solution of 2-(cyclohexylamino)-6-fluoronicotinic acid and triethylamine. After 30 minutes of stirring at room temperature, 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one was added thereto. The reaction liquid was stirred overnight at room temperature and then hearted under reflux for 3 hours. By post-treating the reaction liquid, 2-(cyclohexylamino)-6-fluoro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)nicotinamide was obtained.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | 2-(cyclohexylamino)-6-fluoronicotinic acid | C1(CCCCC1)NC1=C(C(=O)O)C=CC(=N1)F | C12H15FN2O2
reactant | 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | NC1=CC=C2CCC(N(C2=C1)C)=O | C10H12N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(cyclohexylamino)-6-fluoro-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)nicotinamide | C1(CCCCC1)NC1=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=CC(=N1)F | C22H25FN4O2
